US05114955
4-(4-Fluorophenoxy)-2-picoline-N-oxide
6.2 g (55 mmol) of 4-fluorophenol are dissolved in 75 ml of N,N-dimethylacetamide and 20.7 g (150 mmol) of finely powdered potassium carbonate was added. 7.7 g (50 mmol) of 4-nitro-2-picoline-N-oxide are added to this suspension and the mixture is warmed at 80° C. for 3 hours. A further 7 g (50 mmol) of potassium carbonate are subsequently added and the mixture is stirred for one hour at 100° C. After cooling, it is freed from N,N-dimethylacetamide in vacuo, and the residue is taken up in water, extracted a number of times using dichloromethane, dried over MgSO4 and concentrated, and the residue is brought to crystallization using diisopropyl ether, m.p. 122°-124° C.

reactant | 4-fluorophenol | 55 mmol, 6.2 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitro-2-picoline-N-oxide | 50 mmol, 7.7 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C | C6H6N2O3
reactant | potassium carbonate | 50 mmol, 7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 75 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-(4-Fluorophenoxy)-2-picoline-N-oxide | FC1=CC=C(OC=2C=C([N+](=CC2)[O-])C)C=C1 | C12H10FNO2
